US09399640B2
Step 2. 6-Bromo-2,5-dimethylpyrazolo[1,5-a]pyrimidin-7-ol
A mixture of 3-methyl-1H-pyrazol-5-amine (0.186 g, 1.92 mmol) and acetic acid (3.71 mL, 65.2 mmol) was slightly heated until complete dissolution and the resultant solution was cooled to RT and mixed with ethyl 2-bromo-3-oxobutanoate (1.20 g, 5.74 mmol). The resultant reaction mixture was stirred at RT for 16 h, after which time the reaction mixture was diluted with diethyl ether, cooled to 0° C. and stirred at that temperature for 30 min. The white solid precipitate was separated by filtration and washed with cold diethyl ether and dried to give the desired product (363 mg, 78%) as a white solid. LCMS calculated for C8H9BrN3O (M+H)+: m/z=242.0, 244.0. found: 241.9, 244.0.

reactant | 3-methyl-1H-pyrazol-5-amine | 1.92 mmol, 0.186 g | CC1=NNC(=C1)N | C4H7N3
reactant | acetic acid | 65.2 mmol, 3.71 mL | C(C)(=O)O | C2H4O2
reactant | ethyl 2-bromo-3-oxobutanoate | 5.74 mmol, 1.20 g | BrC(C(=O)OCC)C(C)=O | C6H9BrO3
solvent | diethyl ether | C(C)OCC | C4H10O
product | 6-Bromo-2,5-dimethylpyrazolo[1,5-a]pyrimidin-7-ol | 363 mg, 78% | BrC=1C(=NC=2N(C1O)N=C(C2)C)C | C8H8BrN3O
